US06762320B2
a) 4-(4-Trifluoromethyl-benzyloxy)-nitrobenzene
Prepared in analogy to 1-(3-fluorobenzyloxy)-4-nitro-benzene, starting from 4-fluoro nitrobenzene and 4-trifluoromethyl benzyl alcohol. Yield after recristallisation from methanol: 82% of a brownish solid. Mp=80.5-81.5° C.

reactant | 1-(3-fluorobenzyloxy)-4-nitro-benzene | FC=1C=C(COC2=CC=C(C=C2)[N+](=O)[O-])C=CC1 | C13H10FNO3
reactant | 4-fluoro nitrobenzene | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
reactant | 4-trifluoromethyl benzyl alcohol | FC(C1=CC=C(CO)C=C1)(F)F | C8H7F3O
solvent | methanol | CO | CH4O
product | 4-(4-Trifluoromethyl-benzyloxy)-nitrobenzene | FC(C1=CC=C(COC2=CC=C(C=C2)[N+](=O)[O-])C=C1)(F)F | C14H10F3NO3
